US06881844B2
A solution of 6-fluoro-1H-indole (1.0 g, 7.40 mmol) in tetrahydrofuran (5 mL) cooled to 0° C. was treated with trifluoroacetic anhydride (1.57 mL, 11.10 mmol). The reaction was stirred at 0° C. for 1 h and then was allowed to warm to 25° C. where it was stirred for 2 h. At this time, the resulting precipitate was collected by filtration, washed with water, and dried in vacuo to afford 2,2,2-trifluoro-1-(6-fluoro-1H-indol-3-yl)-ethanone (330 mg, 19.3%) as a white solid: mp 234-235° C.; EI-HRMS m/e calcd for C10H5F4NO (M+) 231.0307, found 231.0307.

reactant | 6-fluoro-1H-indole | 7.40 mmol, 1.0 g | FC1=CC=C2C=CNC2=C1 | C8H6FN
reactant | trifluoroacetic anhydride | 11.10 mmol, 1.57 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2,2,2-trifluoro-1-(6-fluoro-1H-indol-3-yl)-ethanone | 330 mg, 19.3% | FC(C(=O)C1=CNC2=CC(=CC=C12)F)(F)F | C10H5F4NO
